US05484917
E. (-)-1-(N-t-butylacetamido)-3-(3-tolylureido)-5,7-diphenylhexahydroazepin-2-one
To a 35 mL round-bottomed flask equipped with N2 inlet and condenser were added 293 mg (0.745 mmol) (-)-1-(N-t-butylacetamido)-3-amino-5,7-diphenylhexahydroazepin-2-one, 10 mL ethyl acetate, and 0.096 mL (0.745 mmol) m-tolylisocyanate. The reaction was refluxed for 2.5 hr, cooled, and evaporated. The residue was chromatographed on silica gel using hexane/ethyl acetate as eluant to afford an oil which was crystallized from methylene chloride/isopropyl ether to a give mp 140°-150° C., 71 mg (18%), αD =-18.6° (c=1, CH2Cl2). The Rf value on TLC and 1H-NMR spectrum match those of the racemate.

reactant | (-)-1-(N-t-butylacetamido)-3-amino-5,7-diphenylhexahydroazepin-2-one | 0.745 mmol, 293 mg | C(C)(C)(C)N(C(C)=O)N1C(C(CC(CC1C1=CC=CC=C1)C1=CC=CC=C1)N)=O | C24H31N3O2
reactant | m-tolylisocyanate | 0.745 mmol, 0.096 mL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (-)-1-(N-t-butylacetamido)-3-(3-tolylureido)-5,7-diphenylhexahydroazepin-2-one | C(C)(C)(C)N(C(C)=O)N1C(C(CC(CC1C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC=1C=C(C=CC1)C)=O | C32H38N4O3
